US04144248
1-Methylsulfinyl-1-methylthio-2-phenylethylene (1.154 g) was dissolved in 15 ml of methylene chloride, and 1 ml of triethylamine was added. Under cooling at -15° C., 0.55 ml of phosphorus oxychloride was added. The mixture was stirred at -15° C. for 1 hour and then at room temperature for 2 hours. Water (30 ml) was added, and the reaction mixture was extracted three times with 30 ml of methylene chloride. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was chromatographed on a Florisil column using hexane/benzene as an eluant to afford 1.180 g of 1,1-bis(methylthio)-2-chloro-2-phenylethylene in a yield of 94%.

reactant | 1-Methylsulfinyl-1-methylthio-2-phenylethylene | 1.154 g | CS(=O)C(=CC1=CC=CC=C1)SC | C10H12OS2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 0.55 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Water | 30 ml | O | H2O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 1,1-bis(methylthio)-2-chloro-2-phenylethylene | 1.180 g, yield of 94% | CSC(=C(C1=CC=CC=C1)Cl)SC | C10H11ClS2
